US05728686
Diethyl [4-(7-methoxyethyl-3-methylxanthin-1-yl)butyl]phosphonate
9 g (0.04 mol) of 7-methoxyethyl-3-methylxanthine were suspended in 100 ml of DMF, treated with 11 g (0.048 mol) of diethyl 4-chlorobutane-phosphonate and 10 g (0.064 mol) of activated potassium carbonate and heated at 70° C. for 4 hours. The solid was filtered off, the filtrate was concentrated under reduced pressure and the oily residue which remained was taken up in ethyl acetate, filtered again and crystallized from diisopropyl ether.

reactant | 7-methoxyethyl-3-methylxanthine | 0.04 mol, 9 g | COCCN1C=NC=2N(C(NC(C12)=O)=O)C | C9H12N4O3
reactant | diethyl 4-chlorobutane-phosphonate | 0.048 mol, 11 g | ClCCCCP(OCC)(=O)OCC | C8H18ClO3P
reactant | potassium carbonate | 0.064 mol, 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Diethyl [4-(7-methoxyethyl-3-methylxanthin-1-yl)butyl]phosphonate | COCCN1C=NC=2N(C(N(C(C12)=O)CCCCP(OCC)(OCC)=O)=O)C | C17H29N4O6P
